US04563476
A mixture of 6-hydroxy-3,4-dihydrobenzopyran-7-carboxaldehyde (400 mg, 2.27 mmol) and o-aminobenzylalcohol 282 mg, 2.25 mmol) in methanol (30 mL) was brought to a gentle boil and the volume slowly concentrated to 10 mL. An additional portion of methanol (20 mL) was added and the above process repeated two times. The mixture was cooled (ice bath) and a few drops of water added to aid in the crystallization of the Schiff's base. This material (440 mg) was collected by filtration, redissolved in methanol (30 mL) and sodium borohydride (60 mg, 1.59 mmol) was added in portions. The color was discharged immediately and the mixture allowed to stir at room temperature for 10 minutes. The reaction mixture as concentrated to half its original volume then poured into water (35 mL). After acidification (pH=5) with 2N HCl the mixture was filtered, and the filtrate basified with 7% NaHCO3. The product, which precipitated, was collected by filtration and vacuum dried to afford 6-hydroxy-7-(2-hydroxymethylphenyl)aminomethyl-3,4-dihydrobenzopyran (300 mg, 46.8%), m.p. 141-142° C.

reactant | 6-hydroxy-3,4-dihydrobenzopyran-7-carboxaldehyde | 2.27 mmol, 400 mg | OC=1C(=CC2=C(CCCO2)C1)C=O | C10H10O3
reactant | o-aminobenzylalcohol | 2.25 mmol, 282 mg | NC1=C(CO)C=CC=C1 | C7H9NO
reactant | sodium borohydride | 1.59 mmol, 60 mg | [BH4-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 6-hydroxy-7-(2-hydroxymethylphenyl)aminomethyl-3,4-dihydrobenzopyran | 300 mg, 46.8% | OC=1C(=CC2=C(CCCO2)C1)CNC1=C(C=CC=C1)CO | C17H19NO3
